US04863935
2-chloromethyloxycarbonylaminopropionicacid t-butyl ester
β-alanine t-butylester (316 mg) was dissolved in methylene chloride (2 ml). To this solution were added triethylamine (333 μl: 1.1 molar equivalent) and chloromethylchloroformate (309 mg: 1.1 molar equivalent). The mixture was stirred for 20 minutes while cooling with ice. The reaction solution was concentrated under reduced pressure and was then dissolved in chloroform (20 ml), followed by washing well with water and a saturated solution of sodium chloride. Anhydrous sodium sulfate was applied to dry the chloroform layer which was then concentrated under reduced pressure. The concentrate was purified by silica gel chromatography using a solvent system of chloroform/methanol (200:1 v/v) to obtain the desired substance (394 mg) with a yield of 76%.

reactant | β-alanine t-butylester | 316 mg | C(C)(C)(C)OC(CCN)=O | C7H15NO2
reactant | triethylamine | 1.1 molar, 333 μl | C(C)N(CC)CC | C6H15N
reactant | chloromethylchloroformate | 1.1 molar, 309 mg | ClCOC(=O)Cl | C2H2Cl2O2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | 2-chloromethyloxycarbonylaminopropionicacid t-butyl ester | yield of 76% | C(C)(C)(C)OC(C(C)NC(=O)OCCl)=O | C9H16ClNO4
